Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Vicodin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ Paracentesis

 
History of Present Illness:
___ w/ HIV on HAART, COPD on 3L home O2 (though sat'ing fine on 
RA on admission), HCV cirrhosis c/b ascites requiring biweekly 
therapeutic paracenteses, hepatic encephalopathy; not on 
transplant list ___ comorbidities) p/w worsening girth and abd 
pain. She'd been having pain from her ascites, and felt overdue 
for a paracentesis. She last had paracentesis on the ___. 
She reported that she began feeling worsening abdominal pain 
(constant, epigastric and radiates to back, not a/w food) on 
___, which increased in severity throughout the course of the 
day. She was brought to the ED by her son because of this pain. 
She had no confusion and was alert and oriented x3. The patient 
also reported she recently ran out of most of her home 
medications. She denied any fever, chills, shortness of breath, 
cough, dysuria. She reported loose stool a bit more than usual, 
but attributed it to lactulose use. In the ED, vitals were: 99.4 
105 106/57 18 96% ra. Labs were significant for Na 127 K 5.3 
lactate 2.1 INR 1.7. ALT 135 AST 244 AP 123. no leukocytosis. 
Ascitic fluid showed 220 WBC. She was given Morphine Sulfate 5 
mg IV ONCE MR1, and a GI cocktail.
 
Past Medical History:
- HCV Cirrhosis: genotype 3a  
- HIV: on HAART, ___ CD4 count 173, ___ HIV viral load 
undetectable  
- COPD: ___ PFT showed FVC 1.95 (65%), FEV1 0.88 (37%), 
FEFmax 2.00 (33%)  
- Bipolar Affective Disorder  
- PTSD  
- Hx of cocaine and heroin abuse  
- Hx of skin cancer per patient report  
 
Social History:
___
Family History:
She a total of five siblings, but she is not  talking to most of 
them. She only has one brother that she is in touch with and 
lives in ___. She is not aware of any known GI or liver 
disease in her family.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals - T 97, BP 98/65, HR 103, RR 18, O2 94RA, Glucose 128.  
GENERAL: NAD, lying on her right side.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: distended, + fluid wave, not tense. NABS, nontender  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, AAO3, no asterxis  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM
=======================
Vitals - Tm 98.6, Tc 98.2, BP 82-98/42-68, HR 80-95, RR ___, 
O2 91-99% RA.
GENERAL: NAD, lying on her right side.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, decreased distension, not tense. NABS, nontender  

EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, AAO3, no asterxis  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:20PM BLOOD WBC-8.2# RBC-3.48* Hgb-12.3 Hct-36.7 
MCV-106* MCH-35.5* MCHC-33.6 RDW-16.5* Plt ___
___ 09:28PM BLOOD ___ PTT-31.8 ___
___ 09:20PM BLOOD Glucose-118* UreaN-33* Creat-0.6 Na-127* 
K-5.3* Cl-97 HCO3-24 AnGap-11
___ 09:20PM BLOOD ALT-135* AST-244* AlkPhos-123* 
TotBili-1.3
___ 09:20PM BLOOD Albumin-3.5 Calcium-8.3* Phos-3.3 Mg-2.3
___ 09:27PM BLOOD Lactate-2.1*

NOTABLE LABS
============
___ 12:30AM ASCITES WBC-220* ___ Polys-17* 
Lymphs-48* Monos-19* Mesothe-2* Macroph-12* Other-2*
___ 12:30AM ASCITES TotPro-0.7 Glucose-129

MICROBIOLOGY
============
___ 12:30 am PERITONEAL FLUID

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.

___ VRE screen: No VRE isolated.

IMAGING/STUDIES
===============
CXR ___
No acute cardiopulmonary process.

RUQUS ___
Cirrhotic, mild splenomegaly and ascites.  A solid 3cm nodule in 
the left lobe of the liver is stable in size and appearance. 

DISCHARGE LABS
==============
___ 06:15AM BLOOD WBC-5.6 RBC-3.27* Hgb-11.6* Hct-33.5* 
MCV-103* MCH-35.5* MCHC-34.5 RDW-16.1* Plt ___
___ 06:15AM BLOOD ___ PTT-36.0 ___
___ 06:15AM BLOOD Glucose-87 UreaN-29* Creat-0.4 Na-123* 
K-5.4* Cl-93* HCO3-24 AnGap-11
___ 06:15AM BLOOD ALT-112* AST-176* AlkPhos-101 
TotBili-2.8*
___ 06:15AM BLOOD Albumin-3.5 Calcium-8.8 Phos-3.4 Mg-2.___ w/ HIV on HAART, COPD on 3L home O2, HCV cirrhosis 
decompensated (ascites requiring biweekly therapeutic 
paracenteses, hepatic encephalopathy; not on transplant list ___ 
 
comorbidities) p/w worsening abd girth and pain.

# Goals of care:  The patient expressed that her desire to "let 
go" and be at peace. She is tired of "fighting" her end stage 
liver disease and does not feel that she has a good quality of 
life. She wished to meet with a representative from hospice, 
which we were able to arrange, and she decided that she would 
like to go home with hospice. A conversation was held with the 
patient regarding code status. She noted that she would probably 
be DNR/DNI, but would like to discuss it with her son (HCP). 
Therefore, at this time, she remains full code. We also 
discussed the possibility of her getting a pleurex catheter 
placed because of her repeated paracenteses. She was discharged 
to home with hospice on ___.

# Decompensated HCV cirrhosis with ascites: The patient 
presented with worsening ascites. Her pain was initially managed 
with tramadol and morphine. She underwent ___ paracentesis 
on ___ with removal of 3.5L and she received albumin. Studies 
on the fluid were negative, and she reported a significant 
improvement in her pain.
 
# Hyperkalemia: During her hospitalization, it was noted that 
she had hyperkalemia 5.3 -> 5.9 -> 6.9 without EKG changes. 
After treatment with calcium gluconate 2gm x2, insulin and D50 x 
2, and kayexelate, her K downtrended to 5.4. Her K has been 
persistently elevated in the past and should continue to be 
monitored.

# Hepatic encephalopathy: The patient's mental status was A+Ox3 
on admission. She was continued on rifaximin and lactulose 
in-house and at discharge.

CHRONIC ISSUES
==============

# Hyponatremia - The patient has a history of asymptomatic 
hyponatremia. It is most likely hypervolemic hyponatremia 
related to underlying liver disease as well as aldosterone axis 
dysfunction related to liver disease. She remained asymptomatic 
through her hospitalization. Because she was also started on 
10mg of furosemide to help prevent fluid re-accumulation, she 
will require BMPs twice weekly in the outpatient setting.

# HIV: Emtricitabine-Tenofovir (Truvada) and Raltegravir were 
continued in-house and at discharge.  

# COPD: fluticasone, tiotropium and albuterol were continued 
in-house and at discharge.

TRANSITIONAL ISSUES
===================
[ ] Follow-up peritoneal fluid culture
[ ] New/changed medications: Furosemide 10mg daily (new)
[ ] For hyperkalemia and hyponatremia, the patient should have 
biweekly BMPs (script written). If K > 5.3, she should be given 
kayexelate once weekly. Lab results will be faxed/sent to Dr. 
___.
[ ] Continue conversation regarding pleurex catheter placement 
and code status.
[ ] She will continue to have twice weekly paracenteses

# Code: full  
# Emergency Contact: ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO BID 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fluticasone Propionate 110mcg 1 PUFF IH BID 
4. Lactulose 30 mL PO TID 
5. Raltegravir 400 mg PO BID 
6. Rifaximin 550 mg PO BID 
7. TraMADOL (Ultram) ___ mg PO Q6H:PRN pain 
8. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
Wheezing 
9. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Medications:
1. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
Wheezing 
2. Calcium Carbonate 500 mg PO BID 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Fluticasone Propionate 110mcg 1 PUFF IH BID 
5. Lactulose 30 mL PO TID 
6. Raltegravir 400 mg PO BID 
7. Rifaximin 550 mg PO BID 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. TraMADOL (Ultram) ___ mg PO Q6H:PRN pain 
10. Furosemide 10 mg PO DAILY 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth Please 
take 1 tablet daily. Disp #*15 Tablet Refills:*0
11. Outpatient Lab Work
Please obtain biweekly BMP to monitor K and Na. Please fax 
results to Dr. ___ at the ___ at ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
-Decompensated HCV cirrhosis
-Hyperkalemia

SECONDARY DIAGNOSES
===================
-HIV
-COPD
-Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your stay at ___. You 
were admitted because of worsening abdominal pain. It is likely 
that this pain was due to increasing fluid in the abdomen from 
your cirrhosis. After a paracentesis in which much of this fluid 
was removed, your pain improved significantly. You were noted to 
have a high potassium during your hospitalization, which came 
down with treatment but this should continue to be followed as 
an outpatient. You also emphasized your desire to speak with a 
representative from hospice. Because of your repeated 
paracenteses, we also discussed the possibility of a pleurex 
catheter placement. We arranged for you to meet with hospice 
coordinators, and you will be discharged home with hospice.

We wish you all the best!

Your ___ care team
 
Followup Instructions:
___